US05314887
Part D: 4-{2-[(4-Chlorobutyl)thio]phenyl}-3-nitro-3-buten-2-one
To a 2 liter 4-neck round-bottom flask fitted with mechanical stirrer and thermowell, under a nitrogen atmosphere, was added 138.2 g of N-{2-[(4-chlorobutyl)thio]phenylmethylene}-1-butanamine and 350 ml of benzene, followed by 91.9 ml of acetic anhydride. The mixture was cooled in an ice water bath as 50.18 g of nitroacetone was added. The bath was permitted to warm to room temperature and the reaction stirred overnight. The solvent was removed by rotary evaporation and the product was partitioned between ether and sodium bicarbonate. The organic layer was washed with brine, dried over magnesium sulfate and concentrated to dryness. Purification via column chromatograph on silica gel, eluting with 15% ethyl acetate in hexane provided the product as a pale orange oil. Mass spectrum: 314 (M+1).

reactant | N-{2-[(4-chlorobutyl)thio]phenylmethylene}-1-butanamine | 138.2 g | ClCCCCSC1=C(C=CC=C1)C=NCCCC | C15H22ClNS
reactant | acetic anhydride | 91.9 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | nitroacetone | 50.18 g | [N+](=O)([O-])CC(C)=O | C3H5NO3
solvent | benzene | 350 ml | C1=CC=CC=C1 | C6H6
product | 4-{2-[(4-Chlorobutyl)thio]phenyl}-3-nitro-3-buten-2-one | ClCCCCSC1=C(C=CC=C1)C=C(C(C)=O)[N+](=O)[O-] | C14H16ClNO3S
